US05491237
A 500 mL 3-necked round-bottom flask equipped with an overhead mechanical stirrer and under nitrogen, is charged with 4-iodo-2-methoxy-pyridine-3-carbaldehyde (75.0 g, 0.29 mol) as prepared in example 1, crotyl alcohol (75 mL, 0.88 mol), and triethylsilane (70 mL, 0.44 mol). To the stirred suspension at 0° C. is added trifluoroacetic acid (175 mL, 2.27 mol) dropwise via an addition funnel. The resulting solution is stirred at about 22° C. for approximately 12 hr. The reaction mixture is slowly poured into a rapidly stirring saturated sodium bicarbonate solution (2 L). The mixture is extracted with 3×500 mL of hexane. The combined organic layers are dried over sodium sulfate, filtered, and concentrated in vacuo to give an oil. Purification of this oil by vacuum distillation (ca. 0.4 mm Hg, ca. 120°-130° C.) yields 3-(but-2-enyloxymethyl)-4-iodo-2-methoxy-pyridine as a pale yellow oil: 1H-NMR (400 MHz, CDCl3) δ7.69 (d, J=5 Hz, 1H), 7.34 (d, J=5 Hz, 1H), 5.71 (m, 2H), 4.58 (s, 2H), 4.02 (d, J=1 Hz, 2H), 3.94 (s, 3H), 1.72(d, J=6 Hz, 3H); IR (neat) 2948, 2859, 1561, 1459, 1381, 1361, 1301, 1233, 1169, 1094, 1052 cm-1 ; Elemental analysis: calculated for C11H14NO2I: C 41.40, H 4.42, N 4.39, I 39.76; Found: C 41.31, H 4.45, N 4.37, I 39.71.

reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 0.29 mol, 75.0 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
reactant | crotyl alcohol | 0.88 mol, 75 mL | C(C=CC)O | C4H8O
reactant | triethylsilane | 0.44 mol, 70 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 2.27 mol, 175 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 2 L | C([O-])(O)=O.[Na+]
product | 3-(but-2-enyloxymethyl)-4-iodo-2-methoxy-pyridine | C(C=CC)OCC=1C(=NC=CC1I)OC | C11H14INO2
